### PR TITLE
[Merged by Bors] - feat: port Algebra.MonoidAlgebra.Division

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
This is the second part of the forward port of leanprover-community/mathlib#15905.

---

- [x] depends on: #3059
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#3059
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Data/Polynomial/Inductions.lean [hunk 1]
```diff
@@ -4,10 +4,11 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Chris Hughes, Johannes Hölzl, Scott Morrison, Damiano Testa, Jens Wagemaker
 
 ! This file was ported from Lean 3 source module data.polynomial.inductions
-! leanprover-community/mathlib commit 70fd9563a21e7b963887c9360bd29b2393e6225a
+! leanprover-community/mathlib commit 57e09a1296bfb4330ddf6624f1028ba186117d82
 ! Please do not edit these lines, except to modify the commit id
 ! if you have ported upstream changes.
 -/
+import Mathlib.Algebra.MonoidAlgebra.Division
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Inductions.lean:11]: I think it would be best to leave changing this file to a separate PR

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 2]
```diff
@@ -80,7 +79,8 @@ theorem zero_divOf (g : G) : (0 : AddMonoidAlgebra k G) /ᵒᶠ g = 0 :=
 
 @[simp]
 theorem divOf_zero (x : AddMonoidAlgebra k G) : x /ᵒᶠ 0 = x := by
-  ext
+  apply Finsupp.ext
+  intro
```
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean]: Done and done.

File: Mathlib/Data/Polynomial/Inductions.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Polynomial/Inductions.lean]: Now can you fix the remaining compile errors in `Algebra.MonoidAlgebra.Division` please?

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 3]
```diff
@@ -0,0 +1,205 @@
+/-
+Copyright (c) 2022 Eric Wieser. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Eric Wieser
+
+! This file was ported from Lean 3 source module algebra.monoid_algebra.division
+! leanprover-community/mathlib commit 57e09a1296bfb4330ddf6624f1028ba186117d82
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:7]: This `SHA` is already out of date; the latest version is https://github.com/leanprover-community/mathlib/blob/97eab48559068f3d6313da387714ef25768fb730/src/algebra/monoid_algebra/division.lean which hasn't been processed by mathport yet.

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#3059~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/MonoidAlgebra/Division.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean]: Done?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by Parcly-Taxel** [comment]
bors merge
